US09315495B2
The compound was synthesized as in Example 24.1, using 4-hydroxybenzaldehyde (200 mg, 1.64 mmol) and 1-iodo-3-methylmethylcyclopentane (344 mg, 0.98 mmol) in place of 1-chloro-3,3-dimethylbutane (no sodium iodide was used) to give 4-(cyclopentylmethoxy)benzaldehyde (102 mg, 50% crude) as a yellow oil that was used without further purification or characterization.

reactant | 4-hydroxybenzaldehyde | 1.64 mmol, 200 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-iodo-3-methylmethylcyclopentane | 0.98 mmol, 344 mg | IC1(CC(CC1)C)C | C7H13I
reactant | sodium iodide | [I-].[Na+]
product | 4-(cyclopentylmethoxy)benzaldehyde | 102 mg, 50% | C1(CCCC1)COC1=CC=C(C=O)C=C1 | C13H16O2
